US04594341
6-t-Butoxycarbonylamino-4-N-(carbomethoxymethyl)-perhydro-1,4-thiazepin-5-one
6-t-Butoxycarbonylamino-perhydro-1,4-thiazepin-5-one (0.1 g) and methyl iodoacetate (0.1 g) are dissolved in 1 ml of THF. Sodium hydride (50% suspension in oil) is added in batches. After one hour at room temperature, the reaction is quenched with 2 ml of 10% ammonium chloride solution. The crude product is extracted into methylene chloride, and subsequently chromatographed on silica gel (40:1 chloroform-methanol) to yield the pure product (0.09 g). The NMR spectrum is consistent with the assigned structure. A sample is obtained by recrystallization from ether-methanol and analyzes for C13H22N2O5S.

reactant | 6-t-Butoxycarbonylamino-perhydro-1,4-thiazepin-5-one | 0.1 g | C(C)(C)(C)OC(=O)NC1C(NCCSC1)=O | C10H18N2O3S
reactant | methyl iodoacetate | 0.1 g | ICC(=O)OC | C3H5IO2
reactant | Sodium hydride | [H-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-t-Butoxycarbonylamino-4-N-(carbomethoxymethyl)-perhydro-1,4-thiazepin-5-one | 0.09 g | C(C)(C)(C)OC(=O)NC1C(N(CCSC1)CC(=O)OC)=O | C13H22N2O5S
